US06825188B2
b) (±)-8-[2-(Benzimidazol-2-yl)-1-ethoxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the procedure of Example 1(c), except substituting methyl (±)-8-[2-(benzimidazol-2-yl)-1-ethoxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate for the ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the title compound was prepared as a white powder: MS (ES) m/e 380.4 (M+H)+, 402.3 (M+Na)+.

reactant | methyl (±)-8-[2-(benzimidazol-2-yl)-1-ethoxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(NC2=C1C=CC=C2)CCOC2=CC1=C(CC(C(NC1)=O)CC(=O)OC)C=C2 | C22H23N3O4
reactant | ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
product | (±)-8-[2-(Benzimidazol-2-yl)-1-ethoxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | N1=C(NC2=C1C=CC=C2)CCOC2=CC1=C(CC(C(NC1)=O)CC(=O)O)C=C2 | C21H21N3O4
